US08183246B2
1-[(Z)-2-Chloro-2-nitrovinyl]-4-methoxybenzene
As in a procedure described in the literature [D. Dauzonne, Synthesis, 1990, 66-70], stir a mixture of 10.0 g (73.5 mmol) 4-methoxybenzaldehyde, 9.0 ml (13.5 g, 96.2 mmol) bromonitromethane, 53.9 g (661.0 mmol) dimethylammonium chloride and 0.6 g (1.0 mmol) potassium fluoride in 150 ml xylene on a water separator at 160° C. for 15 hours. After adding 25 ml water and 100 ml dichloromethane, separate the organic phase and extract the aqueous phase three times with 100 ml dichloromethane each time. Dry the combined organic extracts over sodium sulphate, filter and concentrate by vacuum evaporation. Chromatograph the residue on silica gel (solvent: cyclohexane/dichloromethane 1:1). 9.6 g (59% of theor.) of the target compound is obtained.

reactant | 4-methoxybenzaldehyde | 73.5 mmol, 10.0 g | COC1=CC=C(C=O)C=C1 | C8H8O2
reactant | bromonitromethane | 96.2 mmol, 9.0 ml, 13.5 g | BrC[N+](=O)[O-] | CH2BrNO2
reactant | dimethylammonium chloride | 661.0 mmol, 53.9 g | [Cl-].C[NH2+]C
reactant | potassium fluoride | 1.0 mmol, 0.6 g | [F-].[K+]
solvent | xylene | 150 ml | C=1(C(=CC=CC1)C)C | C8H10
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | water | 25 ml | O | H2O
product | 1-[(Z)-2-Chloro-2-nitrovinyl]-4-methoxybenzene | Cl\C(=C/C1=CC=C(C=C1)OC)\[N+](=O)[O-] | C9H8ClNO3
